Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel
 
Attending: ___
 
Chief Complaint:
Fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ year old female with a history of ovarian cancer on 
C6 of carboplatin/doxil (last chemo 3 weeks ago, missed dose 
yesterday) p/w fatigue.   Over the past several days, she says 
she's had increasing fatigue and low energy.   Denies fevers, 
chills, sweats, headache, visual changes, chest pain, chest 
pressure, shortness of breath, nausea, vomiting, diarrhea, 
abdominal pain, dysuria.  She does endorse body ache, especially 
in the upper extremities but not in lower extremities.  Admitted 
for further observation and workup of fatigue. 
 
Past Medical History:
___, pt presented at ___ with acute RLQ 
abdominal pain. CT there was notable for 6.3 cm right ovarian 
cyst.  
___, she had a right ovarian laparoscopic cystectomy, 6-7 cm 
cyst removed with intra-operative rupture, by report there was 
no ovarian surface involvement by tumor. ___ path review of it 
showed high grade serous carcinoma. 
___, pt was taken to OR by Dr. ___ a laparoscopy 
converted to laparotomy with TAH/BSO, pelvic tumor resection, 
total pelvic lymphadenectomy, para-aortic LN resection, 
infracolic omemtectomy, peritoneal biopsies was performed. 
Post-op she was noted to have tachycardia to 130 bpm with normal 
blood pressures and oxygen saturation. CTA chest demonstrated no 
evidence of cardiopulmonary process. Her symptoms eventually 
resolved and did not recur.  She also had a fever, but 
infectious w/u was negative and she defervesced spontaneously. 
She was discharged on ___.  Path showed ovarian serous 
carcinoma, no positive LNs, right pelvic sidewall positive for 
carcinoma, grade 3, with positive washings, thus staged as IIc. 
___, poc placed
___, C1D1 ___ initiated, but pt had a reaction 14 
minutes into the Taxol infusion and was sent to ED for chest 
pain that did not resolve in the clinic 
___, C1D1 ___
___ Pt admitted to ___ for weakness
___ Pt in ED for observation (weakness)
___ Pt in ED for observation (chest pain)
___ - Pt in ED for observation (weakness)

PAST MEDICAL HISTORY:  
DEPRESSION 
HEADACHE 
IRRITABLE BOWEL SYNDROME 
OSTEOPOROSIS 
*S/P WRIST SURGERY 
CONNECTIVE TISSUE DISORDER 
RAYNAUD'S SYNDROME 
OSTEOPENIA 
___ MENTAL HEALTH 
PHARYNGITIS 
? LICHEN SCLEROSUS 
UTERINE FIBROIDS 
OVARIAN CANCER 
H/O ENCEPHALITIS 
H/O OVARIAN CYST 
H/O R FOOT FRACTURE   
 
Social History:
___
Family History:
Paternal great aunt had postmenopausal breast cancer. Maternal 
great uncle had colon cancer. Mother and grandfather have high 
blood pressure. Mother has DM, and father has psoriasis. She 
otherwise denies a family history of ovarian, uterine, cervical 
or vaginal cancer.
 
Physical Exam:
VS: BP 124/80, HR 85, temp 98, RR 12, 98% RA
Gen:  Pleasant, Caucasian female in no apparent distress
HEENT: anicteric
Cardiac: Nl s1/s2 RRR no appreciable murmurs
Pulm: clear bilaterally
Abd: soft and nontender with normoactive bowel sounds
Ext: no edema noted
Neuro: nonfocal 

 
Pertinent Results:
___ 09:50AM   GLUCOSE-91 UREA N-15 CREAT-0.7 SODIUM-142 
POTASSIUM-3.3 CHLORIDE-104 TOTAL CO2-27 ANION GAP-14
___ 09:50AM   WBC-3.6* RBC-2.63* HGB-7.7* HCT-22.6* MCV-86 
MCH-29.3 MCHC-34.2 RDW-22.2*
 
Brief Hospital Course:
___ is a ___ year old female with history of stage IIC ovarian 
cancer on C6 Doxil/carboplatin presenting with increasing 
fatigue.

1. Fatigue: Improved. No focal symptoms other than generalized 
body pains. No associated neurological weakness. DDx includes 
viral myositis, but no fever or other system symptoms to suggest 
this and CK is 41. DDx also includes anemia from chemotherapy 
vs. vitamin D deficiency vs. poor PO intake vs. depression. She 
received unit pRBCs yesterday, which resulted in an appropriate 
increase in her hematocrit. She also received 1L IVF yesterday. 
She was able to ambulate with her nurse this am and understands 
to take OTC vitamin D 2,000 IU daily for at least 2 months or 
until told otherwise by her endocrinologist.  

2. Ovarian cancer: She missed her last dose of chemotherapy, 
which was scheduled for ___. She has been 
re-scheduled for ___. Her thrombocytopenia remained stable 
during his hospital stay. 
 
3. Depression: Continue home cymbalta. Pt is scheduled to see 
her HCA social worker ___. 

4. Constipation: Resolved. Her constipation was treated during 
this hospitalization with multiple stool softeners, which 
resulted in diarrhea yesterday. She had a soft stool today. 

5. FEN:
- Potassium of 3.5, which is likely due to diarrhea yesterday. 
We will replete prior to her discharge. 
- Regular diet

# Prophylaxis - bowel regimen, SC heparin, home oxycodone PRN
# Access - POC
# Code Status - FULL
# Dispo: To home with the follow-up:

___  09:45a   ___. 
  ___ CENTER, ___ FLOOR   
  ___ CLINIC (SB) 
  Create Visit Summary 
 
___  10:00a   ___ 
  ___ CTR, ___ FLOOR   
  MED SS HCA 
  Create Visit Summary 

___  10:30a   ___ 
  ___ CTR, ___ FLOOR   
  HEMATOLOGY/ONCOLOGY-SC 
  Create Visit Summary 

___, MD
___
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Duloxetine 90 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
7. Lactulose 30 mL PO DAILY 
8. Loratadine 10 mg PO DAILY 
9. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
10. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mucositis 
11. Multivitamins 1 TAB PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. Ondansetron 8 mg PO Q8H:PRN nausea 
14. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
15. Polyethylene Glycol 17 g PO DAILY 
16. Prochlorperazine 10 mg PO Q6H:PRN nausea 
17. Senna 1 TAB PO BID:PRN constipation 

 
Discharge Medications:
1. Amitriptyline 10 mg PO HS 
2. Bisacodyl 10 mg PO/PR DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Duloxetine 90 mg PO DAILY 
5. Gabapentin 300 mg PO BID 
6. Hydrocortisone Cream 0.5% 1 Appl TP TID:PRN skin rash 
7. Lactulose 30 mL PO DAILY
8. Loratadine 10 mg PO DAILY 
9. Lorazepam 0.5 mg PO Q8H:PRN nausea/vomiting 
10. Omeprazole 40 mg PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY 
13. Senna 1 TAB PO BID:PRN constipation 
14. Multivitamins 1 TAB PO DAILY 
15. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mucositis 
16. Ondansetron 8 mg PO Q8H:PRN nausea 
17. Prochlorperazine 10 mg PO Q6H:PRN nausea 
18. Over-the-counter Vitamin D3 2,000 IU PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: anemia

Secondary: Stage IIC ovarian cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,
It was a pleasure taking care of you here at ___. You were 
admitted with fatigue. Your red blood cell count was low due to 
your chemotherapy. We gave you a blood transfusion and some 
fluids. Your blood count increased appropriately and you were 
able to walk around the hospital wards with your nurse. Please 
purchase and take vitamin D3 2,000 IU by mouth every day, which 
was recommended by your endocrinologist. Also, continue to drink 
plenty of fluids to stay well hydrated.
 
Followup Instructions:
___